US04716238
Preparation of 7-isobutoxy-8-methoxy-2,2-dimethyl-2H-chromene
A mixture of 5.8 g (22 millimoles) of 2-prenyl-5-isobutoxy-6-methoxy-phenol, a molar equivalent amount of methyl-trialkyl (C8 -C10)-ammonium dichromane and 100 ml of benzene is refluxed for 10 hours. The reaction mixture is diluted with hexane, washed with 20% sodium thiosulfate, the organic phase is dried, evaporated and the residue is purified by column chromatography (see Example 3). Thus 4.6 g of the desired compound are obtained in the form of a colorless oil, yield 80%.

reactant | 2-prenyl-5-isobutoxy-6-methoxy-phenol | 22 millimoles, 5.8 g | C(C=C(C)C)C1=C(C(=C(C=C1)OCC(C)C)OC)O | C16H24O3
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
product | 7-isobutoxy-8-methoxy-2,2-dimethyl-2H-chromene | 4.6 g, yield 80% | C(C(C)C)OC1=CC=C2C=CC(OC2=C1OC)(C)C | C16H22O3
